Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
back and right-side pain, chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo F with h/o Graves, HTN, HL who presented initially with 
right side and back pain. Patient is vague historian, but stated 
that it began yesterday and it was impossible to turn without 
screaming out in pain. She has never had this pain before. She 
also c/o lower abdominal pain and left arm pain. In ED, she 
began c/o severe left-sided and substernal chest pain, 
pressure-like, with continued left arm pain. She has had 
right-sided chest pain before, and another vague "chest pain" 
when she walks quickly but this does not always occur despite 
the same activity level every day. Patient states that her 
mother had heart problems and told her that arm pain could be a 
heart attack. 
In ED, VS 97.2 68 158/87 20 100, had one BP of 206/99. Patient 
was given morphine 6 mg IV and Ativan 1 mg IV. Vitals on 
transfer were 97.2 72 161/94 16 97 RA.
In general, the patient has been having a rough time lately. Her 
mood is down and some days she does not go out. Her sleep has 
been poor, because "things bother" her at night. She c/o feeling 
like there are pains all over her body. Patient has been talking 
to her counseler which helps a little. This morning, patient has 
a headache and continued back pain. 

 
Past Medical History:
1. Graves disease with ophthalmopathy: She has had  
decompression surgery in ___ in ___ for Graves  
ophthalmopathy.  
2. history of a small right thyroid nodule. Her most recent  
ultrasound in ___ revealed a right thyroid  
subcentimeter nodule (8mm) without any changes compared to prior 
 
studies. There were no worrisome features.  
3. hypertension  
4. seasonal allergies  
5. dyslipidemia  
6. osteoarthritis  
7. Schizophrenia (?? she reports chronic visual hallucinations). 
 
Depression.  
8. s/p partial hysterectomy.  
9. chronic abdominal pain--colonoscopy normal ___ and 
___, upper GI series and gastric emptying tests were negative 
in ___. Appears to be treated for Irritable Bowel Syndrome.  
10. Cardiac stress test was negative in ___ according to  
patient's report. Not in OMR.  
11. Headache  
12. PTSD  
13. Depression w/ suicide attempts in past  
14. Partial hysterectomy  
15. Lumpectomy 
16. distant h/o asthma
 
Social History:
___
Family History:
mother has heart problems
 
Physical Exam:
Vitals: T: 97.5  BP: 149/77   P: 65   R: 18 O2: 98 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: upper airway expiratory wheezing, otherwise clear
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft,NT/ND, bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Rectal: Guaiac negative per ED.
 
Pertinent Results:
___ 03:10PM  
CBC:
    13.6
8.4 >---<  41.6 
    324
NEUTS-61.2 ___ MONOS-4.1 EOS-1.8 BASOS-0.4
.
CHEM:
140 | 106 | ___  / ___
4.5 | 25  | 1.1 \
CALCIUM-9.9 PHOSPHATE-4.2 MAGNESIUM-2.3
.
LFTS:
ALT(SGPT)-14 AST(SGOT)-18 CK(CPK)-462* ALK PHOS-102 TOT BILI-0.3
LIPASE-29
.
COAGS: ___ PTT-29.1 ___
.
CE:  
___ 03:10PM   CK 462, CK-MB-4, cTropnT-<0.01
___ 06:50AM   CK 297, CK-MB-3, cTropnT-<0.01  
.
LIPID PANEL: 
CHOLEST-256*
TRIGLYCER-229* HDL CHOL-37 CHOL/HDL-6.9 LDL(CALC)-173*
.
UA NEG
U CX pending
.
H. pylori serum assay pending
.
EKG ___: Normal axis. Sinus HR 50. New T wave inversion V4-V6. 
V2-V3 upsloping same as prior.  
Repeat EKG ___: Unchanged except for mild improvement of TWI.
.
CTA chest and CT A/P:
Normal aorta without dissection or acute abnormality. No PE. 
Clear lungs. No hydronephrosis or hydroureter, no acute 
abnormalities in the abd or pelvis. 

 
Brief Hospital Course:
___ y/o F with h/o Graves disease, HTN, HL p/w right side/back 
pain and developed acute chest pain in ED which has since 
resolved.  
.  
# Right-side/back/ab pain: Pain on presentation was migratory 
and difficult to localize. Patient has had extensive GI work-up 
recently, and diagnosed with IBS by exclusion. CTA  and CT torso 
demonstrated no gross abnormalities. LFTs normal. UA negative, 
no leukocytosis or fever. Patient was continued on home ppi and 
H. pylori serum assay was sent (although unlikely to have PUD 
with neg recent EGD). Symptoms improved without intervention. 
Patient will follow up with Dr. ___ ab pain.  
.  
# Chest pain: Patient developed retrosternal CP in ED, radiating 
to left arm. CTA ruled out dissection and PE. EKG demonstrated 
non-specific TWI V4-V6, which were largely unchanged on repeat 
EKG on HD#2. No events on tele. Neg trop x 2 12 hrs apart and 
mild CK elevation with normal MB fraction, which was trending 
down prior to discharge. Most likely cause is non-cardiac CPK 
elevation from muscle injury or viral myositis. Patient's PCP, 
___ was contacted and patient has a history of atypical 
chest and back pain with numerous ED visits. 
.  
# HTN: Patient was hypertensive to 206/99 in ED. She reports 
being compliant with all medications and denies ever having BP 
this high. No clear cause, but likely ___ anxiety and pain. 
Continued Lisinopril and HCTZ. Patient will f/u with PCP to 
ensure improved BP control next week.
.
# Graves disease/History of thyroid nodule:  Continued Synthroid 
___ mcg. Continue to f/u with endocrinology as outpatient.  
.    
# Dyslipidemia: Lipid panel done in ED for unclear reasons, 
likely not fasting. LDL was borderline and patient should have 
repeat fasting lipid panel.  
.  

 
Medications on Admission:
Amitriptyline 10 mg Tablet ___ Tablet(s) by mouth hs as needed  
Citalopram [Celexa] 20 mg Tablet 1 Tablet(s) by mouth once a day 
 
Hydrochlorothiazide 12.5 mg Tablet 2 Tablet(s) by mouth once a 
day  
Synthroid ___ mcg  
Lisinopril  
Olanzapine [Zyprexa] 10 mg Tablet 1 Tablet(s) by mouth once a 
day  
Pantoprazole [Protonix] 40 mg Tablet, Delayed Release (E.C.)  
Calcium 1200-1500
Vitamin D ___
 
Discharge Medications:
1. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Levothyroxine 75 mcg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
4. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Olanzapine 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.  
7. Calcium 500 mg Tablet Sig: Three (3) Tablet PO once a day.  
8. Vitamin D 1,000 unit Capsule Sig: One (1) Capsule PO once a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary:
chest pain, back pain
.
secondary:
hypertension
hyperlipidemia

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
It was a pleasure taking care of you. You were admitted for 
back, abdomen and chest pain. You had a CAT scan which was 
normal. Your heart was monitored and you did not have a heart 
attack. The reason for your pain may be a viral infection, 
muscle strain, or stress. 
.
You should take your home medications as prescribed.
.
 
Followup Instructions:
___